US07700591B2
To a cooled (−78° C.) solution of LDA (2M in THF/heptane, 39 mL, 78 mmol) in THF (40 mL) was added dropwise over 15 min tert-butyl 3,3-dimethoxycyclopentanecarboxylate (15.0 g, 65.0 mmol) in 100 mL of THF. The resulting mixture was stirred at −78° C. for 40 min, then was treated dropwise with acetaldehyde (7.27 mL, 130 mmol). After stirring for an additional 45 min, the reaction mixture was poured into 500 mL of 10% citric acid solution. The mixture was extracted twice with ether and the combined ethereal layers were washed with brine. The ethereal layer was then dried over anhydrous MgSO4, filtered, and concentrated. TLC analysis indicated that the reaction had not gone to completion and a considerable amount of starting material was still present. Purification/separation by flash chromatography (silica, 30% ethyl acetateihexane) gave the tert-butyl 1-(1-hydroxyethyl)-3,3-dimethoxycyclopentanecarboxylate as an approximately 1:1 ratio of threo and erythro diastereomer pairs and recovered tert-butyl 3,3-dimethoxycyclopentanecarboxylate.

reactant | LDA | 78 mmol, 2M, 39 mL | [Li+].CC(C)[N-]C(C)C
reactant | tert-butyl 3,3-dimethoxycyclopentanecarboxylate | 65.0 mmol, 15.0 g | COC1(CC(CC1)C(=O)OC(C)(C)C)OC | C12H22O4
reactant | acetaldehyde | 130 mmol, 7.27 mL | C(C)=O | C2H4O
reactant | citric acid | 500 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | tert-butyl 1-(1-hydroxyethyl)-3,3-dimethoxycyclopentanecarboxylate | OC(C)C1(CC(CC1)(OC)OC)C(=O)OC(C)(C)C | C14H26O5
